US06977262B2
4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(4-phenylpiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine trihydrochloride
The title compound was prepared from 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine and 1-phenylpiperazine in the same manner as in Example 1076.

reactant | 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CBr)=NNC2 | C14H10BrClN4
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(4-phenylpiperazin-1-yl)methyl-2H-pyrazolo[3,4-b]pyridine trihydrochloride | Cl.Cl.Cl.ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CN1CCN(CC1)C1=CC=CC=C1)=NNC2 | InChI=1S/C24H23ClN6.3ClH/c25-21-9-5-4-8-18(21)23-19(14-26)22(28-24-20(23)15-27-29-24)16-30-10-12-31(13-11-30)17-6-2-1-3-7-17;;;/h1-9,15,23H,10-13,16H2,(H2,27,28,29);3*1H
